US07091232B2
5,6,7,8-Tetrahydro-naphthalen-1-ylamine (Intermediate J1, commercially available from Aldrich) (5 mL, 35.3 mmol) was dissolved in CH2Cl2 (40 mL) and treated with NEt3 (10 mL) and acetyl chloride (3.8 mL, 53 mmol) at rt for 1 h. The mixture was diluted in CHCl3 and acidified with sat NH4Cl. The aqueous layer was extracted with CHCl3. The organic fractions were combined, dried and evaporated and the amide was used without further purification. The resulting amide (35.3 mmol) in acetone (450 mL) and aqueous MgSO4 (5 g in 28 mL) at 0° C. was treated with KMnO4 (16.8 g, 105 mmol). The mixture was allowed to stir at 0° C. for 2 h. The mixture was diluted with H2O and extracted several times with CHCl3. The pooled fractions were washed with brine and dried over MgSO4, filtered and evaporated to dryness. The residue was purified by chromatography on SiO2 to give N-(8-oxo-5,6,7,8-tetrahydro-naphthalen-1-yl)-acetamide (Intermediate J2) as a yellow oil. (57%, in two 2 steps)

reactant | 5,6,7,8-Tetrahydro-naphthalen-1-ylamine | C1(=CC=CC=2CCCCC12)N | C10H13N
reactant | acetyl chloride | 53 mmol, 3.8 mL | C(C)(=O)Cl | C2H3ClO
reactant | NH4Cl | [NH4+].[Cl-]
reactant | MgSO4 | 28 mL, 5 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | KMnO4 | 105 mmol, 16.8 g | [O-][Mn](=O)(=O)=O.[K+]
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | acetone | 450 mL | CC(=O)C | C3H6O
solvent | H2O | O | H2O
solvent | NEt3 | 10 mL | CCN(CC)CC | C6H15N
product | N-(8-oxo-5,6,7,8-tetrahydro-naphthalen-1-yl)-acetamide | O=C1CCCC=2C=CC=C(C12)NC(C)=O | C12H13NO2
